US06660742B2
A solution of 2-[4-(N-benzyloxycarbonylamino)-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethanol (0.14 g, 0.25 mmol) in THF (10 mL) was added to a suspension of 10% Pd/C (0.1 g) in chilled THF (10 mL) and the suspension was hydrogenated under H2 atmosphere at room temperature for 3 days. The suspension was filtered over Celite and the filtrate was concentrated in reduced pressure. The residue was crystallized with diisopropylether to yield 2-[4-amino-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethanol (0.083 g, 76%) as a pale yellow solid: mp 172-180° C. (decomp.); 1H NMR (CDCl3, 500 MHz) δ 9.85 (s, 1H), 9.28 (s, 1H), 7.86 (d, 8.5, 1H), 7.86 (d, 8.0, 1H), 7.54 (s, 1H), 7.50 (t, 8.0, 1H), 7.43 (t, 8.5, 1H), 7.03 (d, 2.0, 1H), 6.84 (s, 1H), 4.18 (t, 5.5, 2H), 4.09 (s, 3H), 3.95 (s, 3H), 3.90 (s, 3H), 3.33 (t, 7.0, 2H);); FABMS (NBA) m/z 435 (M+H+), IR (neat) νmax 3291, 2936, 1638, 1595, 1541, 1509, 1464, 1432, 1410, 1305, 1264, 1106, 1047, 996, 909, 833, 757, 731 cm−1.

reactant | 2-[4-(N-benzyloxycarbonylamino)-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethanol | 0.25 mmol, 0.14 g | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C2=CC=CC=C12)CCO)NC(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C32H31N3O7
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 2-[4-amino-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethanol | 0.083 g, 76% | NC1=CC(=C(C2=CC=CC=C12)CCO)NC(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C24H25N3O5
